US07705027B2
5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (1 eq) was dissolved in an. acetonitrile and N-iodosuccinimide (2.0 eq), followed by ceric ammonium nitrate (0.05 eq) were added, and the solution was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the resulting gum was partitioned between ethyl acetate and brine. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography, eluting with 9:1 hexane:ethyl acetate, to give 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-iodo-isoxazole-3-carboxylic acid ethylamide as an oil.

reactant | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 1 eq | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H30N2O4
reactant | N-iodosuccinimide | 2.0 eq | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-iodo-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1I)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H29IN2O4
